US08304446B2
N-[1-{[3,4-Bis(methyloxy)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide
To a solution of 5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-N-[4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide (for a preparation see Intermediate 10) (150 mg, 0.286 mmol), triphenylphosphine (150 mg, 0.572 mmol) and [3,4-bis(methyloxy)phenyl]methanol (Aldrich) (96 mg, 0.57 mmol) in THF (3 mL) was added at room temperature di-iso-propyl azodicarboxylate (0.113 mL, 0.572 mmol). The resulting mixture was stirred at 60° C. for 3 hours. DCM (3 mL) and water (3 mL) were added and the organic phase was separated. The aqueous layer was further extracted with 3 mL of DCM. The combine organic solutions were dried over an hydrophobic frit and concentrated under a nitrogen stream in a blowdown unit. The residue was purified by chromatography on silica 50 g cartridge on Flashmaster II using a gradient of 0-100% EtOAc in DCM over 60 min. The appropriate fractions were combined and evaporated in vacuo and the residue was dissolved in methanol (5 mL) and treated with a solution of sodium hydroxide (2M, 1.43 mL, 2.86 mmol). The resulting mixture was stirred at 60° C. for 2 hours. The solvents were evaporated off under reduced pressure, and the residue was partitioned between 2 mL of DCM, 3 mL of water. A solution of dilute HCl solution was added until the pH of the aqueous layer was around 1. The organic phase was separated and the aqueous layer was further extracted with 2 mL of DCM. The combined organic solutions were dried over an hydrophobic frit and concentrated under a stream of nitrogen in a blowdown unit. The residue was dissolved in 1:1 MeOH-DMSO (1 mL) and purified by MDAP (supelcosil ABZ+Plus column) eluting with solvents A/B (A: Water+0.1% Formic acid, B: MeCN:Water 95:5+0.05% Formic acid). The solvent was removed from appropriate fractions under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound (52.6 mg, 37%). LCMS (System A) RT=1.17 min, ES+ve m/z 494/496 (M+H)+.

reactant | 5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-N-[4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | ClC1=CC=C(S1)S(=O)(=O)N(C1=NNC2=CC=CC(=C12)OC)S(=O)(=O)C=1SC(=CC1)Cl | C16H11Cl2N3O5S4
reactant | triphenylphosphine | 0.572 mmol, 150 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [3,4-bis(methyloxy)phenyl]methanol | 0.57 mmol, 96 mg | COC=1C=C(C=CC1OC)CO | C9H12O3
reactant | di-iso-propyl azodicarboxylate | 0.572 mmol, 0.113 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium hydroxide | 2.86 mmol, 2M, 1.43 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[1-{[3,4-Bis(methyloxy)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | 52.6 mg, 37% | COC=1C=C(C=CC1OC)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl | C21H20ClN3O5S2
